US05863947
To a solution of methyl 2-benzamido-2-(4-hydroxy-3-methoxy-6-methylphenyl)acetate (0.5 g, 1.51 mmol), 2,6-lutidine (0.24 g, 2.24 mmol) and 4-dimethylaminopyridine (45 mg, 0.37 mmol) in dry dichloromethane (10 ml) stirred under an atmosphere of nitrogen and cooled to -50° C. was added trifluoromethanesulphonic anhydride (0.62 g, 2.20 mmol). The mixture was kept between -25° to -35° C. for 1.5 hours, diluted with water and extracted with dichloromethane. The extract was washed with aqueous hydrochloric acid (1M), water (2×) and a saturated solution of sodium chloride, dried, filtered and evaporated to a white solid. This was triturated with diethyl ether to give methyl 2-benzamido-2-(3-methoxy-6-methyl-4-trifluoromethylsulphonylphenyl)acetate.

reactant | methyl 2-benzamido-2-(4-hydroxy-3-methoxy-6-methylphenyl)acetate | 1.51 mmol, 0.5 g | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)C1=CC(=C(C=C1C)O)OC | C18H19NO5
reactant | 2,6-lutidine | 2.24 mmol, 0.24 g | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulphonic anhydride | 2.20 mmol, 0.62 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
catalyst | 4-dimethylaminopyridine | 0.37 mmol, 45 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | methyl 2-benzamido-2-(3-methoxy-6-methyl-4-trifluoromethylsulphonylphenyl)acetate | C(C1=CC=CC=C1)(=O)NC(C(=O)OC)C1=CC(=C(C=C1C)S(=O)(=O)C(F)(F)F)OC | C19H18F3NO6S
